US06066641
a) 3-Cyclopentyloxy-4-methoxy-benzyl urea
25 ml of 5N HCl was added to a solution of 31.54 g of 3-cyclopentyloxy-4-methoxy-benzylamine carbonate and 8.30 g of sodium cyanate in 440 ml of water and 50 ml of THF over 15 minutes. After 3 hours another 0.83 g of sodium cyanate was added. After 20 hours the solid was collected, washed with water containing 5% of THF, suspended in 2.2 liters of ether and collected to give the title compound as a white solid (28.55 g) mp 134-5° C.

reactant | HCl | 5N, 25 ml | Cl | ClH
reactant | 3-cyclopentyloxy-4-methoxy-benzylamine carbonate | 31.54 g | C(O)(O)=O.C1(CCCC1)OC=1C=C(CN)C=CC1OC
reactant | sodium cyanate | 8.30 g | [O-]C#N.[Na+]
reactant | sodium cyanate | 0.83 g | [O-]C#N.[Na+]
solvent | water | 440 ml | O | H2O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 3-Cyclopentyloxy-4-methoxy-benzyl urea | 28.55 g | C1(CCCC1)OC=1C=C(CNC(=O)N)C=CC1OC | C14H20N2O3
